US06875765B2
5-Bromo-quinoline (5.6 g, 27 mmol) was dissolved in 40 mL toluene. BHT (50 mg) was added, along with allyl tributyl stannane (9.3 mL, 30 mmol), and tetrakis(triphenyl)phospine palladium (600 mg, 0.52 mmol). The reaction was refluxed overnight, then cooled. Potassium fluoride solution (1.0 g, in 18 mL H2O) was added. The reaction was stirred for 3 hours, then filtered. The reaction mixture was concentrated in vacuo. It was chromatographed in 3:1 hexane/ethyl acetate to yield 4.38 g (95%) of 5-allyl-quinoline as a yellow oil. MS (APCI) m/z 170.1 (M+1).

reactant | 5-Bromo-quinoline | 27 mmol, 5.6 g | BrC1=C2C=CC=NC2=CC=C1 | C9H6BrN
reactant | allyl tributyl stannane | 30 mmol, 9.3 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | Potassium fluoride | 18 mL, 1.0 g | [F-].[K+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 5-allyl-quinoline | 4.38 g, 95% | C(C=C)C1=C2C=CC=NC2=CC=C1 | C12H11N
